US05294612
Cyclopentylhydrazine hydrochloride (20.9 g, 0.1 moles), 97% sodium methoxide (5.6 g, 0.1 moles) and ethanol (100 ml) were combined and stirred at room temperature under argon for 2.5 hours. (1-Ethoxypropylidene)malononitrile was added to the reaction mixture and the mixture was refluxed for 21 hours. The reaction mixture was cooled and the solvent was removed in vacuo. The residue was treated with water (150 ml) and the obtained precipitate was collected by filtration, washed with water and dried in a vacuum oven for 24 hours to afford 14.2 g (70%) of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carbonitrile as a brown powder, m.p. 171°-173° C.

reactant | Cyclopentylhydrazine hydrochloride | 0.1 moles, 20.9 g | Cl.C1(CCCC1)NN
reactant | sodium methoxide | 0.1 moles, 5.6 g | C[O-].[Na+]
reactant | (1-Ethoxypropylidene)malononitrile | C(C)OC(CC)=C(C#N)C#N | C8H10N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carbonitrile | 14.2 g, 70% | C1(CCCC1)N1N=C(C(=C1N)C#N)CC | C11H16N4
